US08859566B2
A mixture of 1-Propyl-8-(1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (100 mg, 0.2 mmol), 3-Bromomethylpyridine (55 mg, 0.3 mmol), K2CO3 (50 mg, 0.3 mmol) and DMF were stirred at 60° C. for 2 hours. Organic volatiles were evaporated and purified to obtain pure 1-Propyl-8-(1-pyridin-3-ylmethyl-1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (8 mg, 6%) as an colourless oil.

reactant | 1-Propyl-8-(1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.2 mmol, 100 mg | C(CC)N1C=NC=2N=C(N(C2C1=O)COCC[Si](C)(C)C)C=1C=NNC1 | C17H26N6O2Si
reactant | 3-Bromomethylpyridine | 0.3 mmol, 55 mg | BrCC=1C=NC=CC1 | C6H6BrN
reactant | K2CO3 | 0.3 mmol, 50 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Propyl-8-(1-pyridin-3-ylmethyl-1H-pyrazol-4-yl)-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 8 mg, 6% | C(CC)N1C=NC=2N=C(N(C2C1=O)COCC[Si](C)(C)C)C=1C=NN(C1)CC=1C=NC=CC1 | C23H31N7O2Si
